US08669234B2
3-[6-(9,9-Difluoro-7-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-9H-fluoren-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (57.6 mg, 0.068 mmol) was dissolved in DCM (1 mL) and HCl in dioxane (4M, 1 mL) was added and stirring at room temperature was continued. After 45 minutes, all volatiles were removed in vacuo. The crude material was used in the next step without further purification. The crude material was dissolved in DMF (1.0 mL) and DIEA (26.4 mg, 0.204 mmol) was added. A solution of 2-(L) methoxycarbonylamino-propionic acid (9.95 mg, 0.068 mmol), HATU (25.9 mg, 0.068 mmol) and DIEA (8.8 mg, 0.068 mmol) in DMF (1 mL) was added. The reaction was stirred at room temperature. After 45 minutes, the reaction was diluted with EtOAc and was washed with aqueous bicarbonate solution, aqueous LiCl solution (5%), brine, and was dried over sodium sulfate. Filtration and removal of solvents in vacuo gave the crude material, which was purified by RP-HPLC (eluent: water/MeCN w/0.1% TFA) to yield the product (1-{6-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-propionyl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl]-9H-fluoren-2-yl)-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (25.4 mg) as a TFA salt.

reactant | 3-[6-(9,9-Difluoro-7-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-9H-fluoren-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.068 mmol, 57.6 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC=1C(C4=CC(=CC=C4C1C=C3)C=3NC(=NC3)C3N(CC1(CC1)C3)C(C(C(C)C)NC(=O)OC)=O)(F)F)C2 | C47H51F2N7O5
reactant | HCl | Cl | ClH
reactant | DIEA | 0.204 mmol, 26.4 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methoxycarbonylamino-propionic acid | 0.068 mmol, 9.95 mg | COC(=O)NC(C(=O)O)C | C5H9NO4
reactant | HATU | 0.068 mmol, 25.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.068 mmol, 8.8 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4M, 1 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-{6-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-propionyl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl]-9H-fluoren-2-yl)-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 25.4 mg | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C)NC(=O)OC)=O)C=C1)(F)F)=O | C47H50F2N8O6
